US08003785B2
To a mixture of 0.075 g (0.155 mmole) of 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-trifluoromethyl-benzoic acid (I-204) and 8 mL of dimethylformamide was added 0.0313 g (0.232 mmole) of 1-hydroxybenzotriazole, 0.088 g (0.232 mmole) of 1-[bis(dimethylamino)methylene]-1H-benzotriazolium-3-oxide hexafluorophosphate and 0.080 g (0.617 mmole) of diisopropylethylamine. The mixture was stirred for 10 minutes, then 0.0465 g (0.232 mmole) of 4-amino-1-Boc-piperidine was added. The reaction mixture was stirred for 2 hours and then concentrated under reduced pressure. The residue was dissolved in 80 mL of ethyl acetate and washed three times with 10 mL of 1M sodium hydroxide, twice with 15 mL of brine, dried, filtered and concentrated under reduced pressure. Purification by silica gel chromatography, eluting with dichloromethane-methanol (gradient, 95:5-90:10) gave 0.0354 g of 4-[4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-trifluoromethyl-benzoylamino]-piperidine-1-carboxylic acid tert-butyl ester (I-211) as a white solid.

reactant | 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-trifluoromethyl-benzoic acid | 0.155 mmole, 0.075 g | C1(CCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)O)C=C2)C(F)(F)F | C21H20F5N5O3
reactant | 1-hydroxybenzotriazole | 0.232 mmole, 0.0313 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-[bis(dimethylamino)methylene]-1H-benzotriazolium-3-oxide hexafluorophosphate | 0.232 mmole, 0.088 g | F[P-](F)(F)(F)(F)F.CN(C)C(=[N+]1N=[N+](C2=C1C=CC=C2)[O-])N(C)C
reactant | diisopropylethylamine | 0.617 mmole, 0.080 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-amino-1-Boc-piperidine | 0.232 mmole, 0.0465 g | NC1CCN(CC1)C(=O)OC(C)(C)C | C10H20N2O2
solvent | dimethylformamide | 8 mL | CN(C=O)C | C3H7NO
product | 4-[4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-trifluoromethyl-benzoylamino]-piperidine-1-carboxylic acid tert-butyl ester | 0.0354 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC(C1=CC(=C(C=C1)NC=1N=CC2=C(N(CC(C(N2C)=O)(F)F)C2CCCC2)N1)C(F)(F)F)=O | C31H38F5N7O4
